US06107312
7. 1-Acetyl-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}benzimidazole
2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole (5.0 mmol) is suspended in anhydrous methylene chloride (50 ml), triethylamine (11 mmol and acetyl chloride (8 mmol) are added and the mixture is stirred at 20° C. for 20 h. The clear reaction solution is washed with sodium bicarbonate solution and water, dried over magnesium sulfate and concentrated and the residue is crystallized by addition of diisopropyl ether. The title compound is obtained as a colorless powder; m.p. 168-169° C. (decomp.); yield: 97% of theory.

reactant | 2-{[[4-(2-Furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | 5.0 mmol | O1C(=CC=C1)CSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C19H17N3OS2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 8 mmol | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Acetyl-2-{[[4-(2-furylmethylthio)-3-methyl-2-pyridinyl]methyl]thio}benzimidazole | yield: 97% | C(C)(=O)N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2C)SCC=2OC=CC2 | C21H19N3O2S2
